US06358960B1
Benzyl 4′-benzyloxycarbonylamino-2′-methoxymethyloxycarbonyl-4-hydroxymethyl-2-biphenylcarboxylate
To a solution of benzyl 4′-benzyloxycarbonylamino-2′-methoxymethyloxycarbonyl-4-t-butyidiphenylsilyloxymethyl-2-biphenyl carboxylate (777 mg) which was prepared by the same procedure as a series of reaction of Reference Example 6→Reference Example 1 (without an esterfication of benzyl)→Reference Example 4→Reference Example 5→Reference Example 7, using 5-benzyloxycarbonylaminosalicylic acid; in anhydrous tetrahydrofuran (10 ml), a solution of 1.0 M tetrabutylammonium fluoride in anhydrous tetrahydrofuran (1.0 ml) was added. The mixture was stirred for 2 hours at room temperature. Water (100 ml) was added to the reaction mixture, the solution was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:3) to give the title compound (370 mg) having the following physical data.

reactant | benzyl 4′-benzyloxycarbonylamino-2′-methoxymethyloxycarbonyl-4-t-butyidiphenylsilyloxymethyl-2-biphenyl carboxylate | 777 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C=C1)C=1C(=CC(=CC1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCOC | C48H47NO8Si
reactant | 5-benzyloxycarbonylaminosalicylic acid | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C(C(=O)O)=C1)O | C15H13NO5
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | 100 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | Benzyl 4′-benzyloxycarbonylamino-2′-methoxymethyloxycarbonyl-4-hydroxymethyl-2-biphenylcarboxylate | 370 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C=C1)C=1C(=CC(=CC1)CO)C(=O)OCC1=CC=CC=C1)C(=O)OCOC | C32H29NO8
